US07732618B2
a.) {5-[(2-Cyano-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester. (Scheme 1)
2-Cyanobenzyl bromide (0.27 mmol) and K2CO3 (63 mg, 0.45 mmol) were added to a solution of [5-(4-fluoro-benzenesulfonylamino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester (40 mg, 0.09 mmol) in CH3CN (1 mL), and stirred overnight at 80° C. The reaction mixture was diluted with EtOAc and H2O, and then filtered through an Extrelut column. The column was washed with EtOAc, and the filtrate was concentrated. The crude product was carried onto the next reaction without any further purification or characterization.

reactant | 2-Cyanobenzyl bromide | 0.27 mmol | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
reactant | K2CO3 | 0.45 mmol, 63 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | [5-(4-fluoro-benzenesulfonylamino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester | 0.09 mmol, 40 mg | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C22H26FN3O4S
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | {5-[(2-Cyano-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(S(=O)(=O)C2=CC=C(C=C2)F)CC2=C(C=CC=C2)C#N)CCC)=O | C30H31FN4O4S
